US09353090B2
Compound D-3-8 (50.0 g, 127 mmol) is combined with palladium (II) acetate (5.0 g), dppp (5.0 g) and Et3N (25.7 g, 254 mmol) in EtOH (1.0 L). The mixture is then stirred at 80° C. overnight under an atmosphere of CO at a pressure of 4 MPa. The mixture is cooled to room temperature and the solids are removed by filtration. The filtrate is concentrated under reduced pressure and the residue is purified by flash silica gel chromatography (using 20:1 petroleum ether:EtOAc) to provide compound D-3-9 (25.0 g, 62% yield).

reactant | D-3-8 | 127 mmol, 50.0 g | CCCCNC(C)(C)CC1=CC=CC=C1 | C14H23N
reactant | dppp | 5.0 g | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
reactant | Et3N | 254 mmol, 25.7 g | CCN(CC)CC | C6H15N
solvent | EtOH | 1.0 L | CCO | C2H6O
catalyst | palladium (II) acetate | 5.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | D-3-9 | 25.0 g, 62% yield | CCCCNC(C)(C)CC1CCCCC1 | C14H29N
